US07820664B2
Step J: 3-(2-Fluoro-4-iodophenyl)-1-(cyclopropylsulfonyl)-4-fluoro-8-methyl-1H-imidazo[4,5-g]quinazolin-2(3H)-one:
To a solution of 3-(2-fluoro-4-iodophenyl)-4-fluoro-8-methyl-1H-imidazo[4,5-g]quinazolin-2(3H)-one (50 mg, 0.12 mmol) in THF (10 ml) at −78° C. was added LiHMDS (0.16 ml, 1 M in THF, 0.16 mmol). The reaction mixture was stirred at −78° C. for 10 min and cyclopropylsulfonyl chloride (25 mg, 0.18 mmol) was added to the mixture. The reaction was slowly warmed to room temperature and stirred at the temperature for 16 h. The reaction was quenched with saturated aqueous NH4Cl solution (10 ml) and extracted with EtOAc (2×10 ml). The combined organic solution was washed with brine (20 ml), dried over MgSO4 and concentrated. Silica gel chromatography (EtOAc:Hexanes=25:75) yields 46 mg (75%) of the title compound as a yellow solid.

reactant | 3-(2-fluoro-4-iodophenyl)-4-fluoro-8-methyl-1H-imidazo[4,5-g]quinazolin-2(3H)-one | 0.12 mmol, 50 mg | FC1=C(C=CC(=C1)I)N1C(NC2=CC=3C(=NC=NC3C(=C21)F)C)=O | C16H9F2IN4O
reactant | LiHMDS | 0.16 mmol, 1 M, 0.16 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | cyclopropylsulfonyl chloride | 0.18 mmol, 25 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-4-iodophenyl)-1-(cyclopropylsulfonyl)-4-fluoro-8-methyl-1H-imidazo[4,5-g]quinazolin-2(3H)-one | 46 mg, 75% | FC1=C(C=CC(=C1)I)N1C(N(C2=CC=3C(=NC=NC3C(=C21)F)C)S(=O)(=O)C2CC2)=O | C19H13F2IN4O3S
